US05877199
a) Methyl [9-(4-methoxycarbonylbenzyl)-1-methylcarbazol-2-yl]-acetate
Following a procedure and using relative proportions of starting materials similar to those described in Example 4, but using methyl (1-methylcarbazol-2-yl)acetate and 4-methoxycarbonylbenzyl bromide as starting materials, the title compound was obtained as an oil.

reactant | methyl (1-methylcarbazol-2-yl)acetate | CC1=C(C=CC=2C3=CC=CC=C3NC12)CC(=O)OC | C16H15NO2
reactant | 4-methoxycarbonylbenzyl bromide | COC(=O)C1=CC=C(CBr)C=C1 | C9H9BrO2
product | Methyl [9-(4-methoxycarbonylbenzyl)-1-methylcarbazol-2-yl]-acetate | COC(=O)C1=CC=C(CN2C3=CC=CC=C3C=3C=CC(=C(C23)C)CC(=O)OC)C=C1 | C25H23NO4
